Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
cephalexin
 
Attending: ___.
 
Chief Complaint:
"I wasn't sleeping" 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including initial consultation note by Drs. ___ and 
___ dated ___  and admission note by Dr. ___ 
___ dated ___. 
. 
Briefly, this is a ___ year old single, employed ___ man, 
currently a first year ___ student at ___ 
___, psychiatric history notable for BPAD s/p one prior 
psychiatric hospitalization, OCD, no prior suicide attempts, who 
initially presented to ___ ED with reported 5 months of 
suicidal ideation in the setting of numerous psychosocial 
stressors. 
. 
Upon initial interview, patient reported that since ___ he 
had been having difficulty sleeping, which has been distressing 
as Mr. ___ had ___ episode of mania/hypomania in ___ 
resulting in a hospitalization. Mr. ___ reported feeling 
distressed about his finances, stating he has been having 
difficulty making ends meet while working as a ___, stating 
he had ruminating thoughts of what he would do if evicted, how 
he would afford to move or if he would become homeless. Patient 
endorsed anxiety regarding school, and stated that in ___ he 
had been working in ___ as a ___. While having a 
conversation with a student he said something that apparently 
called into question his ability to remain appropriate with 
students. His supervisor at the time filed a report stating he 
was a danger around children and he reported quitting soon 
thereafter. Mr. ___ reported that he believes his real 
skillset lay in the teaching field and feels that this career 
path is now closed to him. 
. 
Mr. ___ also reported significant concern about colleagues 
and those with authority speaking abotu him behind his back. He 
is concerned about this and both his place of employment as well 
as on campus. Reported believing his fellow employees are saying 
negative things about him behind his back, although he was 
unable to provide any evidence for this. Also raised concerns 
about one of his professors trying to ___ his career, "she 
is really intimidating to other people." 
. 
ED Course; patient was in good behavioral control and did not 
require physical or chemical restraints 
. 
On my interview with Mr. ___, who was a somewhat limited 
historian and appeared guarded on examination, he stated that he 
came to the hospital "because I wasn't sleeping for about a week 
and school was really stressful." Mr. ___ confirmed that he 
last felt well in about ___, and stated that things 
have been getting gradually worse, noting that there have been 
multiple nights where he has had difficulty falling asleep. 
. 
When asked how his difficulties started, he was notably vague 
and difficulty relaying a clear history. He did state he has 
been in ___ for over a year and that last year was "fine... 
this year not so much." Confirmed he was at ___ at the 
beginning of the year, which "didn't work out" as noted above. 
He stated that he is unsure if the journalism program at ___ is 
the place for him, "I don't know how to make healthy 
relationships and the people I can connect with are the people 
who can't make healthy relationships." 
. 
Mr. ___ reported he has been "kind of depressed," noting he 
is still able to enjoy things such as entertaining friends and 
playing the clarinet. Reported poor sleep as noted above, about 
___ hours in the past week. Reported energy is okay but "not as 
high as I'd like it to be" and endorsed some difficulty focusing 
because "I get distracted and overwhelmed. Stated appetite is 
intact but that because of financial pressures, he has not been
eating a lot. Endorsed suicidal ideation, stating he had 
thoughts of jumping off a bridge, similar to a comic book 
character, but denied intent or plan. 
.
On psychiatric review of systems, patient did endorse a manic 
episode during his freshman year in college where he went ___ 
days with decreased need for sleep, with increased energy. 
Stated he had been giving a presentation in class for history 
and was talking excessively, resulting in hospitalization at 
that time. Denies risky behaviors in the past and denies 
grandiosity. Reported that his diagnosis was later changed to 
OCD, stating he
tends to pick the skin off his chest for ___ minutes a day. 
Denies checking behaviors, excessive cleaning. Reports AH only 
when going to asleep, "whispers and growls." Denies VH, 
paranoia, thought insertion or broadcasting, ideas of reference. 
Denies drug or alcohol abuse. Denies panic attacks. 
. 
 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: BPAD, OCD 
- SA/SIB: denies/denies 
- Hospitalizations: ___ for a week 
- Psychiatrist: none 
- Therapist: none 
- Medication Trials: Depakote, Lamictal, Luvox, Abilify  

Past Medical History: 
- Denies 
- PCP: ___ at ___ 
 
Social History:
Family History: 
- Diagnoses: depression in mother, both sisters with depression 
and one sister with complex PTSD, paternal uncle with bipolar 
- ___: denies
- Addictions: Father with alcoholism 
. 
Social History: ___
Family History:
- Diagnoses: depression in mother, both sisters with depression 
and one sister with complex PTSD, paternal uncle with bipolar 
- ___: denies
- Addictions: Father with alcoholism 
 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T-97.6 BP-127/76 HR-70 RR-16 O2Sat-100 
General: Young man in NAD. Well-nourished, well-developed. 
Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: small healing cuts on chest and shoulders; otherwise no
apparent rashes, scars, or lesions. 

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally.
 IX, X: Palatal elevation symmetrical.
 XI:  trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical patellar
reflexes. Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: serial 7s to 58 very quickly and without error
  Orientation: oriented to person, time, place, situation
  Executive function (go-no go, Luria, trails, FAS): not tested
  Memory: ___ registration and ___ min recall; intact to 
recent
and past history
  Fund of knowledge: consistent with education; intact to last 4
presidents 
  Calculations: $2.25 = "9 quarters"
  Abstraction: apple+orange="fruit" watch+ruler="used to measure
things" bike+train="wheels"
  Visuospatial: Not assessed
  Speech: normal rate, volume, and tone
  Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: young thin Caucasian man, appearing his stated age, 
appears disheveled and unkempt but otherwise fairly groomed, 
wearing a hospital gown and thick rimmed white glasses  
Behavior: Calm, cooperative, pleasant, making appropriate eye 
contact, no psychomotor agitation or retardation
 Mood and Affect: "depressed" / odd affect overall; initially 
dysthymic, tearful; later blunted but at times smiling oddly
 Thought Process: linear and coherent without any loosening of 
association, but thought blocked at times
 Thought Content: denies SI/HI/AH/VH currently, no evidence of 
delusions or paranoia at present
 Judgment and Insight: poor/poor

 
Pertinent Results:
___ 08:29PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:29PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:55AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:24PM   GLUCOSE-108* UREA N-17 CREAT-0.7 SODIUM-143 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-26 ANION GAP-14
___ 11:24PM   estGFR-Using this
___ 11:24PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 11:24PM   WBC-7.6 RBC-5.32 HGB-15.7 HCT-44.6 MCV-84 
MCH-29.5 MCHC-35.2 RDW-12.0 RDWSD-36.3
___ 11:24PM   NEUTS-55.5 ___ MONOS-6.7 EOS-0.3* 
BASOS-0.3 NUC RBCS-0.3* IM ___ AbsNeut-4.20 AbsLymp-2.79 
AbsMono-0.51 AbsEos-0.02* AbsBaso-0.02
___ 11:24PM   PLT COUNT-232
 
Brief Hospital Course:
This is a ___ year old single, employed ___ man, currently 
a first year ___ student at ___, 
psychiatric history notable for BPAD s/p one prior psychiatric 
hospitalization, OCD, no prior suicide attempts, who initially 
presented to ___ ED with reported 5 months of suicidal 
ideation in the setting of numerous psychosocial stressors. 
. 
Initial interview with Mr. ___ was somewhat limited, as he 
seemed to be somewhat vague and guarded at times but 
presentation appears to be notable for prior manic/hypomanic 
episode in college as noted in the HPI with patient doing well 
until approximately ___. In the setting of losing his 
position at ___ after apparently making ___ inappropriate 
comment at work, patient does
appear notably paranoid that others are out to get him with 
difficulty sleeping, significant anxiety and ruminative thought 
process with some depressed mood. History also notable for 
reported OCD with patient reporting skin picking behaviors. On 
examination, patient reported some suicidal ideation but without 
intent or plan. Mental status examination notable for a well 
groomed man with adequate hygiene and grooming who was somewhat 
oddly related and blunted on examination. Thought process seemed 
a bit concrete. 
. 
Diagnostically, differential diagnosis includes bipolar 
depression, primary psychotic disorder/prodromal presentation, 
exacerbation of OCD. Presentation may also be secondary to 
recent decompensation of underlying cluster A traits. Of note, 
patient denies history of substance use and given his young age 
and good
health, I do not believe that that ___ underlying medical 
condition is contributing to his presentation. 
. 
#. Legal/Safety: Patient admitted to ___ for on a ___, upon admission, he signed a conditional voluntary form, 
which was accepted. Of note, he maintained excellent behavioral 
control on the unit and did not require physical or chemical 
restraints
. 
#. BPAD: by history but with no evidence of mania on my 
examination but with perhaps some dysthymic and anxious mood. 
- Patient was compliant in attending groups and meeting with his 
treatment team; he was cooperative with his care and 
participated appropriately 
- Given concern for psychosis with ruminative thought process, 
poor sleep, anxiety, and paranoia, we discussed the risks and 
benefits of initiating low dose risperidone, and patient was 
amenable. He was started at 1 mg po qhs and 0.5 mg po bid, which 
he tolerated well with no complaints of side effects. 
- For insomnia, after discussion of the risks and benefits, we 
started Vistaril 50 mg po qhs with good response but with some 
daytime sedation 
- In the setting of the above medications and in the stabilizing 
environment of the milieu, the patient's condition improved with 
significant subjective improvement in his anxiety, ruminations 
and insomnia. He became more euthymic and open with his 
treatment team and discussed the conflict he had with his 
family. He consistently denied suicidal ideation or thoughts of 
self harm during his hospitalization and his thought process was 
notably linear, goal and future oriented by time of discharge 
and he was noted to be more spontaneous on examination with full 
range of affect. 
- Patient that he wanted to return to school upon discharge and 
was amenable to referral to outpatient psychiatric providers as 
noted in the discharge worksheet. 
.
#. OCD: by history
- see above 
- Of note, given concern for BPAD, we avoided initiation of 
antidepressants at this time .
. 
#. Constipation: patient did complain of some minor constipation 
and was offered a bowel regimen during this hospitalization. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
2.  HydrOXYzine 25 mg PO QHS:PRN insomnia 
may take ___ tablets at bedtime as needed for sleep  
RX *hydroxyzine HCl 25 mg ___ tabs by mouth at bedtime Disp #*30 
Tablet Refills:*0 
3.  RisperiDONE 1 mg PO QHS 
RX *risperidone [Risperdal] 1 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 
4.  RisperiDONE 0.5 mg PO BID:PRN anxiety, agitation   
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar disorder by history 
OCD by history 

 
Discharge Condition:
VS: T 97.7 | BP 112/69 | HR 59 | RR 17 | SpO2 98% RA

A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative and pleasant with interviewer, good 
eye contact, no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'Better'
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH 
TP: linear, logical, goal and future oriented
C: awake, alert, responds to questions appropriately
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___